US06559173B1
Dry acetonitrile (0.738 gms.) is mixed with 24.5 mL THF under Ar(g) and cooled to −78° C. in a dry ice-acetone bath. Dropwise addition of 2M n-butyl lithium in cyclohexane (7.72 mL) to this mixture then affords a yellowish/orange color solution. The mixture is allowed to stir at −78° C. for an additional 1.5 h followed by dropwise addition of ethyl 4-methoxy phenyl acetate (2.5 gms.). The resulting solution is stirred at −78° C. for an additional 30 minutes and then is stirred overnight at room temperature. Subsequently, the reaction mixture is treated with dilute NaOH, to dissolve solid material that forms, and extracted twice with water. The combined aqueous layers are neutralized with a saturated aqueous NH4Cl solution and extracted twice with EtOAc. The combined organic layers are dried over anhydrous Na2SO4 and concentrated in vacuo. The crude product is recrystallized from hot i-prOH to yield the desired 4-(4-methoxy-phenyl)-3-oxo-butyronitile in 11% yield. This nitrile (0.225 gms.) is then dissolved in 5 mL anydrous EtOH, treated with anhydrous hydrazine (0.081 gms.) and heated to 65° C. The resulting reaction mixture is stirred overnight at 65° C., subsequently cooled to room temperature, and concentrated in vacuo to provide the named compound.

reactant | acetonitrile | 0.738 gms | C(C)#N | C2H3N
reactant | THF | 24.5 mL | C1CCOC1 | C4H8O
reactant | n-butyl lithium | 2M | C(CCC)[Li]
reactant | NaOH | [OH-].[Na+]
reactant | cyclohexane | 7.72 mL | C1CCCCC1 | C6H12
product | 4-(4-methoxy-phenyl)-3-oxo-butyronitile | 11% yield | COC1=CC=C(C=C1)CC(CC#N)=O | C11H11NO2
